US06313118B1
(R)-N-[5-Hydroxy-8-(4-methylpiperazin-1-yl)-1,2,3,4-tetrahydro-2-naphthyl]-4-butoxybenzamide
To an ice-cooled solution of (R)-2-amino-5-hydroxy-8-(4-methylpiperazin-1-yl)-1,2,3,4-tetrahydronaphthalene (100 mg, 0.38 mmol) and triethylamine (79 μL, 0.57 mmol) in N,N-dimethylformamide (30 mL) was 4-butoxybenzoyl chloride in N,N-dimethylformamide (5 mL) added dropwise. After the addition the reaction was stirred at ambient temperature for 15 min. The solvent was evaporated in vacuo and the residue was purified on a silica gel column using chloroform/methanol/concentrated ammonium hydroxide (95:5:0.5) as the eluent. Yield: 73 mg (44%) as an amorphous solid: mp 125° C. (decomp.); [α]21D−20° (c=0.25, chloroform); EIMS (70 eV) m/z (relative intensity) 437 (16, M+).

reactant | (R)-2-amino-5-hydroxy-8-(4-methylpiperazin-1-yl)-1,2,3,4-tetrahydronaphthalene | 0.38 mmol, 100 mg | N[C@H]1CC2=C(C=CC(=C2CC1)O)N1CCN(CC1)C | C15H23N3O
reactant | triethylamine | 0.57 mmol, 79 μL | C(C)N(CC)CC | C6H15N
reactant | 4-butoxybenzoyl chloride | C(CCC)OC1=CC=C(C(=O)Cl)C=C1 | C11H13ClO2
solvent | N,N-dimethylformamide | 30 mL | CN(C=O)C | C3H7NO
solvent | N,N-dimethylformamide | 5 mL | CN(C=O)C | C3H7NO
product | (R)-N-[5-Hydroxy-8-(4-methylpiperazin-1-yl)-1,2,3,4-tetrahydro-2-naphthyl]-4-butoxybenzamide | OC1=C2CC[C@H](CC2=C(C=C1)N1CCN(CC1)C)NC(C1=CC=C(C=C1)OCCCC)=O | C26H35N3O3
